US08017610B2
(89g) 5-(3-[(1S)-2-Methoxy-1-methylethoxy]-5-{5-[(4R,5R)-4-methyl-5-{[(triisopropylsilyl)oxy]methyl}-4,5-dihydro-1,3-oxazol-2-yl]-1H-pyrrol-2-yl}phenoxy)-2-(methylsulfonyl)pyridine
N-[(1R,2S)-2-Hydroxy-1-methyl-3-[(triisopropylsilyl)oxy]propyl]-5-(3-[(1S)-2-methoxy-1-methylethoxy]-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}phenyl)-1H-pyrrole-2-carboxamide (1.69 g, 2.45 mmol) synthesized in Example (890 was dissolved in tetrahydrofuran (25 mL), and anhydrous methanesulfonic acid (0.88 g, 4.90 mmol) and triethylamine (1.37 mL, 9.80 mmol) were added, followed by stirring at 50° C. for 5 hours under nitrogen atmosphere. A saturated aqueous sodium hydrogencarbonate solution (40 mL) was added, and the solution was separated with ethyl acetate (60 mL). The organic layer was washed with saturated brine, and subsequently dried over anhydrous magnesium sulfate. The solvent was distilled off under reduced pressure, and the resulting residue was purified using silica gel column chromatography (elution solvent: ethyl acetate/hexane=10%-50%) to afford the desired compound (1.23 g, yield 75%) as a white solid.

reactant | N-[(1R,2S)-2-Hydroxy-1-methyl-3-[(triisopropylsilyl)oxy]propyl]-5-(3-[(1S)-2-methoxy-1-methylethoxy]-5-{[6-(methylsulfonyl)pyridin-3-yl]oxy}phenyl)-1H-pyrrole-2-carboxamide | 2.45 mmol, 1.69 g | O[C@@H]([C@@H](C)NC(=O)C=1NC(=CC1)C1=CC(=CC(=C1)OC=1C=NC(=CC1)S(=O)(=O)C)O[C@H](COC)C)CO[Si](C(C)C)(C(C)C)C(C)C | C34H51N3O8SSi
reactant | methanesulfonic acid | 4.90 mmol, 0.88 g | CS(=O)(=O)O | CH4O3S
reactant | triethylamine | 9.80 mmol, 1.37 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogencarbonate | 40 mL | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 5-(3-[(1S)-2-Methoxy-1-methylethoxy]-5-{5-[(4R,5R)-4-methyl-5-{[(triisopropylsilyl)oxy]methyl}-4,5-dihydro-1,3-oxazol-2-yl]-1H-pyrrol-2-yl}phenoxy)-2-(methylsulfonyl)pyridine | 1.23 g, yield 75% | COC[C@@H](OC=1C=C(OC=2C=CC(=NC2)S(=O)(=O)C)C=C(C1)C=1NC(=CC1)C=1O[C@H]([C@H](N1)C)CO[Si](C(C)C)(C(C)C)C(C)C)C | C34H49N3O7SSi
